US04547518
4-Amino-5-chloro-N-(1-ethyl-4,5-dihydro-1H-pyrazol-4-yl)-2-methoxybenzamide
To a solution of 8.90 g (0.020 mole) of 4-amino-5-chloro-N-(1,2-diethyl-4-pyrazolidinyl)-2-methoxybenzamide succinate in 400 ml of reagent grade methanol, cooled to -20° C. and under nitrogen atmosphere was added dropwise 80 ml of 5% aqueous sodium hypochlorite over a 20 min period while maintaining the reaction mixture at -20° C. The reaction mixture was stirred for an additional one hour period at 0° C. then diluted with one liter of chloroform. The diluted mixture was washed with 500 ml of water. The aqueous layer was extracted with 200 ml of chloroform. The combined chloroform layers were dried over sodium sulfate and concentrated in vacuo. The crude product was partially purified by column chromatography on a silica column (eluted with ethyl acetate:hexane:methanol, 4.5:4.5:1). Further purification was effected by high pressure liquid chromatography, using the same solvent system as eluant. On evaporation, the residue was triturated with cold diethyl ether to give 1.90 g (32.0%) of title product, m.p. 132.5°-134.0° C.

reactant | 4-amino-5-chloro-N-(1,2-diethyl-4-pyrazolidinyl)-2-methoxybenzamide succinate | 0.020 mole, 8.90 g | C(CCC(=O)O)(=O)O.NC1=CC(=C(C(=O)NC2CN(N(C2)CC)CC)C=C1Cl)OC
reactant | methanol | CO | CH4O
reactant | sodium hypochlorite | 80 ml | Cl[O-].[Na+]
solvent | chloroform | one liter | C(Cl)(Cl)Cl | CHCl3
product | 4-Amino-5-chloro-N-(1-ethyl-4,5-dihydro-1H-pyrazol-4-yl)-2-methoxybenzamide | 1.90 g, 32.0% | NC1=CC(=C(C(=O)NC2C=NN(C2)CC)C=C1Cl)OC | C13H17ClN4O2
